US05331010
A solution of 1-phenyl-1-cyclopentanecarboxylic acid (2.00 g, 10.51 mmol) in 30 mL methanol saturated with HCl was stirred at reflux for two hours. The reaction mixture was allowed to cool and the solvent was evaporated. The residue was dissolved in 50 mL dichloromethane and washed with 2N sodium hydroxide (3×25 mL). The organic layer was washed with water (2×25 mL) and dried (Na2SO4). Evaporation of the solvent gave 1.89 g (88%) of methyl-1-phenyl-1-cyclopentanecarboxylate as a pale yellow liquid and was used in the next step without further purification. CIMS 205 m/z (M+1).

reactant | 1-phenyl-1-cyclopentanecarboxylic acid | 10.51 mmol, 2.00 g | C1(=CC=CC=C1)C1(CCCC1)C(=O)O | C12H14O2
reactant | HCl | Cl | ClH
reactant | methanol | 30 mL | CO | CH4O
product | methyl-1-phenyl-1-cyclopentanecarboxylate | 1.89 g, 88% | COC(=O)C1(CCCC1)C1=CC=CC=C1 | C13H16O2
